US06265421B1
a) 3-Benzyl-5,7-dihydroxy-4-methyl-2H-1-benzopyran-2-one
A solution of phloroglucinol dihydrate (20 g) and ethyl 2-benzylacetoacetate (27.5 ml) in ethanol (320 ml) was treated with dry HCl at 0° C. for five hours and the solution was kept at that temperature overnight. The yellow solution was concentrated and triturated with water, the solids filtered, washed with water and dried. The resulting hydrate was thrice evaporated to dryness from toluene, triturated with petroleum ether (bp. 40-60° C.) and filtered. Yield 33,4 g (96%). Melting point 258-260° C.

reactant | phloroglucinol dihydrate | 20 g | O.O.C1(O)=CC(O)=CC(O)=C1
reactant | ethyl 2-benzylacetoacetate | 27.5 ml | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)C | C13H16O3
reactant | HCl | Cl | ClH
solvent | ethanol | 320 ml | C(C)O | C2H6O
product | 3-Benzyl-5,7-dihydroxy-4-methyl-2H-1-benzopyran-2-one | C(C1=CC=CC=C1)C=1C(OC2=C(C1C)C(=CC(=C2)O)O)=O | C17H14O4
